US06291464B1
To a stirred solution of (S)-1-acetyl-4-amino-2-methylpiperazine (320 mg) and triethylamine (0.57 ml) in dichloromethane (10 ml) was added 4-fluorobenzoyl chloride (0.27 ml) at 0° C. The mixture was stirred at ambient temperature for 3 hours, washed with water and brine. The organic layer was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography eluting with a mixture of methanol and chloroform (1:9) to give (S)-N-(4-acetyl-2-methyl-1-piperazinyl)-4-fluorobenzamide (50 mg).

reactant | (S)-1-acetyl-4-amino-2-methylpiperazine | 320 mg | C(C)(=O)N1[C@H](CN(CC1)N)C | C7H15N3O
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.27 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-(4-acetyl-2-methyl-1-piperazinyl)-4-fluorobenzamide | 50 mg | C(C)(=O)N1C[C@@H](N(CC1)NC(C1=CC=C(C=C1)F)=O)C | C14H18FN3O2
